US05952368
N-{2-[5-(4-Chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}amine (0.3 g, 0.88 mmol) and methylisothiocyanate (0.3 ml, 4.4 mmol) were dissolved in THF and the reaction mixture was stirred at 60° C. overnight. The mixture was diluted with ethyl acetate and washed with 1N HCl 10% sodium bicarbonate, water, and brine. The solvents were removed in vacuo and the crude product was purified by flash chromatography (ethyl acetate-methanol, 97:3) to give 1-{2-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}-3-methyl-2-thiourea (265 mg, 73%) as a solid, mp 135° C.

reactant | N-{2-[5-(4-Chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}amine | 0.88 mmol, 0.3 g | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC2=NC=C(C=C2)N)C)C=C1 | C19H18ClN3O
reactant | methylisothiocyanate | 4.4 mmol, 0.3 ml | CN=C=S | C2H3NS
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{2-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}-3-methyl-2-thiourea | 265 mg, 73% | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC2=NC=C(C=C2)NC(=S)NC)C)C=C1 | C21H21ClN4OS
